US08859573B2
5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinecarbaldehyde
To a solution of 5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinecarbonitrile (0.876 g, 2.93 mmol) in anhydrous tetrahydrofuran (30 mL), was added DIBAL-H (5.87 mL, 5.87 mmol) dropwise at −78° C. The reaction mixture was stirred for 1 h at −78° C., then quenched with 1N HCl solution, concentrated. Purification via ISCO afforded the title product (350 mg) as an off white solid. LC-MS (ESI): m/z 302 [M+H]+; 3.47 min (ret time).

reactant | 5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinecarbonitrile | 2.93 mmol, 0.876 g | ClC1=C(C=C(C=C1)OC=1C=CC(=NC1)C#N)C(F)(F)F | C13H6ClF3N2O
reactant | DIBAL-H | 5.87 mmol, 5.87 mL | CC(C)C[AlH]CC(C)C
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinecarbaldehyde | 350 mg | ClC1=C(C=C(C=C1)OC=1C=CC(=NC1)C=O)C(F)(F)F | C13H7ClF3NO2
